US08039450B2
To a solution of 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-(hydroxymethyl)benzonitrile (12.1 g, 28.9 mmol) in dichloromethane (100 mL) were added triethylamine (8.0 mL, 58 mmol) and methanesulfonyl chloride (2.5 mL, 32 mmol) at 0° C., and the mixture was stirred at room temperature for 1 h. The mixture was washed with water and brine, and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure. To a solution of the residue in N,N-dimethylformamide (100 mL) was added sodium diformylimide (3.29 g, 34.7 mmol), and the mixture was stirred at 50° C. for 2 h. The mixture was poured into ethyl acetate/water. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure. To a solution of the residue in 1,4-dioxane (80 mL) was added 3 M NaOH (10 mL), and the mixture was stirred at room temperature for 1 h. The mixture was poured into ethyl acetate/water. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column (5:5 to 4:6 hexane/ethyl acetate) to give 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-(formylaminomethyl)benzonitrile (8.77 g, 68%).

reactant | 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-(hydroxymethyl)benzonitrile | 28.9 mmol, 12.1 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)CO)C=C1)COC1OCCCC1 | C20H20BrNO4
reactant | triethylamine | 58 mmol, 8.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 32 mmol, 2.5 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-(formylaminomethyl)benzonitrile | 8.77 g, 68% | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)CNC=O)C=C1)COC1OCCCC1 | C21H21BrN2O4
